US07700594B2
7-Bromo-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 7-bromo-4-methoxy-1H-indole.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 7-bromo-4-methoxy-1H-indole | BrC=1C=CC(=C2C=CNC12)OC | C9H8BrNO
product | 7-Bromo-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | BrC=1C=CC(=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C)OC | C15H19BBrNO3
